US08212045B2
In a 4 neck 5 L flask was added (R)-N-hydroxy-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (158 g, 719 mmol) in 2.5 L of THF. The material was cooled to 3° C. and methanesulfonyl chloride (56.1 ml, 719 mmol) was added through an addition funnel over 12 minutes. The reaction was filtered and the solids washed with MTBE (about 3 L). The filtrate was concentrated and the residue was purified over silica gel (7:1 to 3:1 Hex/EtOAc) to afford an oil that slowly solidified under vacuum. The solids were ground using a mortar and pestle, washed with hexanes (about 1000 mL) and dried to afford (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (158 g, 531 mmol, 73.8% yield) as a white solid.

reactant | (R)-N-hydroxy-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 719 mmol, 158 g | ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C9H14ClNO3
reactant | methanesulfonyl chloride | 719 mmol, 56.1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 2.5 L | C1CCOC1 | C4H8O
product | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 531 mmol, 158 g, 73.8% yield | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
